US08664387B2
3-[(1S,2S)-2-Hydroxycyclohexyl]-6-{[6-(1H-pyrazol-1-yl)pyridine-3-yl]methyl}pyrido[2,3-h]quinazolin-4(3H)-one
To a solution of 6-[(6-chloropyridin-3-yl)methyl]-3-[(1S,2S)-2-hydroxycyclohexyl]pyrido[2,3-h]quinazolin-4(3H)-one (0.063 g, 0.15 mmol) and pyrazole (0.015 g, 0.22 mmol) in 1 mL of DMSO and 0.2 mL of water under an atmosphere of nitrogen was added potassium phosphate (0.095 g, 0.45 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (21.3 mg, 0.150 mmol), and copper(I) iodide (8.6 mg, 0.045 mmol). The mixture was heated at 120° C. for 30 h, cooled to rt, and diluted with dichloromethane. The organic solution was washed 3× with water, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-5% methanol in dichloromethane, to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 453.2034 for [M+H]+ [Calc'd for C26H25N6O2, [M+H]+=453.2034]: 1H NMR (400 MHz, CDCl3) δ 9.24-9.22 (m, 1H), 9.10-9.08 (m, 1H), 8.50 (s, 1H), 8.46 (s, 1H), 8.27-8.26 (m, 2H), 7.85-7.77 (m, 2H), 7.68 (s, 1H), 7.62-7.59 (m, 1H), 6.42 (s, 1H), 4.68 (s, 2H), 4.66-4.64 (m, 1H), 4.02 (br s, 1H), 2.27-2.25 (m, 1H), 2.06-2.03 (m, 1H), 1.90 (br s, 3H), 1.56-1.44 (m, 3H).

reactant | 6-[(6-chloropyridin-3-yl)methyl]-3-[(1S,2S)-2-hydroxycyclohexyl]pyrido[2,3-h]quinazolin-4(3H)-one | 0.15 mmol, 0.063 g | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1N=CC=C2)[C@@H]2[C@H](CCCC2)O)=O | C23H21ClN4O2
reactant | pyrazole | 0.22 mmol, 0.015 g | N1N=CC=C1 | C3H4N2
reactant | potassium phosphate | 0.45 mmol, 0.095 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.150 mmol, 21.3 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | 0.2 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(I) iodide | 0.045 mmol, 8.6 mg | [Cu]I
product | 3-[(1S,2S)-2-Hydroxycyclohexyl]-6-{[6-(1H-pyrazol-1-yl)pyridine-3-yl]methyl}pyrido[2,3-h]quinazolin-4(3H)-one | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)N1N=CC=C1)N=CC=C3 | C26H24N6O2
